US08957074B2
Following general N—C coupling procedure 1, 5-bromo-2-nitropyridine (4.71 g, 23.2 mmol, 1.05 eq) was combined with cis-tert-butyl 4-oxohexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (5 g, 22.1 mmol, 1.0 eq), which after silica gel purification gave cis-tert-butyl 5-(6-nitropyridin-3-yl)-4-oxohexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (6.3 g) in 81% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.75 (m, 2H), 8.34 (d, J=9.09 Hz, 1H), 4.20 (dd, J1=9.85 Hz, J2=6.82 Hz, 1H), 4.02-3.85 (m, 2H), 3.80 (d, J=10.11 Hz, 1H), 3.68 (m, 1H), 1.52-1.43 (m, 3H).

reactant | 5-bromo-2-nitropyridine | 23.2 mmol, 4.71 g, 1.05 eq | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cis-tert-butyl 4-oxohexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 22.1 mmol, 5 g, 1.0 eq | O=C1[C@H]2[C@@H](CN1)CN(C2)C(=O)OC(C)(C)C | C11H18N2O3
product | cis-tert-butyl 5-(6-nitropyridin-3-yl)-4-oxohexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 6.3 g, 81% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1C[C@@H]2[C@H](C1=O)CN(C2)C(=O)OC(C)(C)C | C16H20N4O5
